US06008229
To a solution of 2-carboxy-1-[2,4-dichloro-3-[2-methyl-4-(pyrazol-1-yl)quinolin-8-yloxymethyl]phenyl]pyrrole (80 mg) in N,N-dimethylformamide (2 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (37.3 mg) and 1-hydroxybenzotriazole (30.7 mg) at ambient temperature, and the mixture was stirred for 1.5 hours at the same temperature. To the mixture was added conc. ammonia solution (12 mg) at ambient temperature, and the mixture was stirred for 2 days at the same temperature. The reaction mixture was poured into water and extracted with chloroform. The separated organic layer was washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol=20:1, V/V) to give 2-carbamoyl-1-[2,4-dichloro-3-[2-methyl-4-(pyrazol-1-yl)quinolin-8-yloxymethyl]phenyl]pyrrole (31 mg) as amorphous powder.

reactant | 2-carboxy-1-[2,4-dichloro-3-[2-methyl-4-(pyrazol-1-yl)quinolin-8-yloxymethyl]phenyl]pyrrole | 80 mg | C(=O)(O)C=1N(C=CC1)C1=C(C(=C(C=C1)Cl)COC=1C=CC=C2C(=CC(=NC12)C)N1N=CC=C1)Cl | C25H18Cl2N4O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 37.3 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 30.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | 12 mg | N | H3N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-carbamoyl-1-[2,4-dichloro-3-[2-methyl-4-(pyrazol-1-yl)quinolin-8-yloxymethyl]phenyl]pyrrole | 31 mg | C(N)(=O)C=1N(C=CC1)C1=C(C(=C(C=C1)Cl)COC=1C=CC=C2C(=CC(=NC12)C)N1N=CC=C1)Cl | C25H19Cl2N5O2
